* File: /home/eng/s/sxv240035/cad/gf65/tutorial/NOR2/HSPICE/NOR2.pex.sp.pex
* Created: Thu Dec  5 19:46:34 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NOR2%OUT 3 6 7 10 17 23 24 26 27 30 32 34 35 36
c63 7 0 1.02517e-19
c64 6 0 1.12834e-20
r65 30 32 1.7
r66 25 30 0.0515171
r67 25 26 0.0818858
r68 23 30 0.110105
r69 23 24 0.0818858
r70 20 34 30
r71 17 20 0.388606
r72 17 26 0.563479
r73 17 34 10
r74 13 27 0.0363272
r75 13 24 0.255508
r76 10 36 10
r77 8 27 0.0363272
r78 8 10 0.339059
r79 6 27 0.00944082
r80 6 7 0.840651
r81 3 35 10
r82 1 7 0.0479332
r83 1 3 0.339059
.ends

.subckt PM_NOR2%VSS 1 6 12 18
r41 6 18 10
r42 4 12 0.0199415
r43 4 6 0.988031
r44 1 12 30
.ends

.subckt PM_NOR2%VDD 1 6 15 20
c25 6 0 1.02517e-19
r26 10 20 30
r27 6 10 0.388606
r28 6 20 10
r29 4 15 0.0185406
r30 4 10 1.40675
r31 1 15 30
.ends

.subckt PM_NOR2%A 4 6 10 12 14 17 23
c43 17 0 1.12834e-20
c44 10 0 1.94277e-19
c45 6 0 2.70174e-19
r46 20 23 4.21922
r47 17 20 25
r48 14 17 1.7
r49 6 12 36.8926
r50 5 23 3.83544
r51 5 6 35.2529
r52 4 23 3.83544
r53 3 10 26.6446
r54 3 4 53.8017
.ends

.subckt PM_NOR2%B 4 6 10 12 15 17 23
c53 17 0 9.2625e-20
c54 15 0 1.77549e-19
c55 10 0 1.94277e-19
r56 20 23 4.21922
r57 15 20 25
r58 15 17 1.7
r59 6 12 36.8926
r60 5 23 3.83544
r61 5 6 35.2529
r62 4 23 3.83544
r63 3 10 26.6446
r64 3 4 53.8017
.ends

