* File: /home/eng/s/sxv240035/cad/gf65/tutorial/OAI21/HSPICE/OAI21.pex.sp.pex
* Created: Thu Dec  5 19:50:51 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_OAI21%NET014 3 6 7 10 13 14
r45 10 14 10
r46 8 10 0.339059
r47 6 8 0.0479332
r48 6 7 0.967187
r49 3 13 10
r50 1 7 0.0479332
r51 1 3 0.339059
.ends

.subckt PM_OAI21%VSS 1 6 12 18
r47 6 18 10
r48 4 12 0.0199415
r49 4 6 0.988031
r50 1 12 30
.ends

.subckt PM_OAI21%OUT 3 9 10 13 17 19 22 24 26
c50 19 0 5.63451e-20
r51 19 22 1.7
r52 16 22 0.14145
r53 16 17 0.0874363
r54 13 26 10
r55 11 22 0.127308
r56 11 13 0.969692
r57 9 17 0.0479332
r58 9 10 0.402159
r59 6 24 30
r60 3 6 0.388606
r61 3 24 10
r62 1 10 0.0479332
r63 1 3 0.388606
.ends

.subckt PM_OAI21%VDD 1 6 12 16 25 29 32 33
c43 33 0 5.63451e-20
r44 20 33 30
r45 16 20 0.388606
r46 16 33 10
r47 14 29 0.0185406
r48 14 20 1.40675
r49 13 25 0.0268516
r50 12 29 0.0268516
r51 12 13 1.20662
r52 10 32 30
r53 6 10 0.388606
r54 6 32 10
r55 4 25 0.0185406
r56 4 10 1.40675
r57 1 25 15
.ends

.subckt PM_OAI21%A 4 6 10 12 14 17 23
c44 10 0 1.54476e-19
c45 6 0 2.67492e-19
r46 20 23 4.21922
r47 17 20 25
r48 14 17 1.7
r49 6 12 36.8926
r50 5 23 3.83544
r51 5 6 35.2529
r52 4 23 3.83544
r53 3 10 26.6446
r54 3 4 53.8017
.ends

.subckt PM_OAI21%B 4 6 10 12 14 17 23
c53 17 0 1.7284e-19
c54 14 0 9.46516e-20
c55 12 0 1.54476e-19
c56 10 0 3.08952e-19
c57 6 0 2.67492e-19
r58 20 23 4.21922
r59 17 20 25
r60 14 17 1.7
r61 6 12 36.8926
r62 5 23 3.83544
r63 5 6 35.2529
r64 4 23 3.83544
r65 3 10 26.6446
r66 3 4 53.8017
.ends

.subckt PM_OAI21%C 4 6 10 12 14 17 23
c49 17 0 1.7284e-19
c50 14 0 9.46516e-20
c51 12 0 1.54476e-19
c52 10 0 1.54476e-19
r53 20 23 4.21922
r54 17 20 25
r55 14 17 1.7
r56 6 12 36.8926
r57 5 23 3.83544
r58 5 6 35.2529
r59 4 23 3.83544
r60 3 10 26.6446
r61 3 4 53.8017
.ends

