* File: /home/eng/s/sxv240035/cad/gf65/tutorial/OAI22/HSPICE/OAI22.pex.sp.pex
* Created: Thu Dec  5 19:52:44 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_OAI22%NET12 3 6 7 11 13 14 17 20 21 23
r62 17 23 10
r63 15 17 0.462441
r64 13 15 0.0479332
r65 13 14 0.804414
r66 11 21 10
r67 9 11 0.339059
r68 8 14 0.0479332
r69 8 11 0.462441
r70 6 9 0.0479332
r71 6 7 1.00978
r72 3 20 10
r73 1 7 0.0479332
r74 1 3 0.339059
.ends

.subckt PM_OAI22%VSS 1 6 12 18
r51 6 18 10
r52 4 12 0.0199415
r53 4 6 0.988031
r54 1 12 30
.ends

.subckt PM_OAI22%OUT 3 9 10 13 17 18 21 23 26 28 30
c71 28 0 1.74392e-19
c72 26 0 9.50081e-20
r73 23 26 1.7
r74 20 26 0.0515171
r75 20 21 0.0805173
r76 18 26 0.110105
r77 18 19 0.0805173
r78 17 21 0.0874363
r79 13 19 0.682003
r80 13 30 10
r81 9 17 0.0479332
r82 9 10 0.380861
r83 6 28 30
r84 3 6 0.388606
r85 3 28 10
r86 1 10 0.0479332
r87 1 3 0.388606
.ends

.subckt PM_OAI22%VDD 1 6 12 16 25 29 32 33
r47 20 33 30
r48 16 20 0.388606
r49 16 33 10
r50 14 29 0.0185406
r51 14 20 1.40675
r52 13 25 0.0268516
r53 12 29 0.0268516
r54 12 13 1.70889
r55 10 32 30
r56 6 10 0.388606
r57 6 32 10
r58 4 25 0.0185406
r59 4 10 1.40675
r60 1 25 15
.ends

.subckt PM_OAI22%B 4 6 10 12 14 17 23
c44 10 0 1.54476e-19
c45 6 0 2.67492e-19
r46 20 23 4.21922
r47 17 20 25
r48 14 17 1.7
r49 6 12 36.8926
r50 5 23 3.83544
r51 5 6 35.2529
r52 4 23 3.83544
r53 3 10 26.6446
r54 3 4 53.8017
.ends

.subckt PM_OAI22%D 4 6 10 12 14 17 23
c52 17 0 1.7284e-19
c53 14 0 9.46516e-20
c54 12 0 1.54476e-19
c55 10 0 3.08952e-19
c56 6 0 2.67492e-19
r57 20 23 4.21922
r58 17 20 25
r59 14 17 1.7
r60 6 12 36.8926
r61 5 23 3.83544
r62 5 6 35.2529
r63 4 23 3.83544
r64 3 10 26.6446
r65 3 4 53.8017
.ends

.subckt PM_OAI22%C 4 6 10 12 14 17 23
c60 17 0 3.47232e-19
c61 14 0 9.46516e-20
c62 12 0 1.54476e-19
c63 10 0 3.08952e-19
r64 20 23 4.21922
r65 17 20 25
r66 14 17 1.7
r67 6 12 36.8926
r68 5 23 3.83544
r69 5 6 35.2529
r70 4 23 3.83544
r71 3 10 26.6446
r72 3 4 53.8017
.ends

.subckt PM_OAI22%A 4 6 10 12 14 22 23
c47 14 0 9.50081e-20
c48 10 0 1.54476e-19
r49 22 23 25
r50 19 22 4.18701
r51 14 23 1.7
r52 6 12 36.8926
r53 5 19 3.83544
r54 5 6 35.2529
r55 4 19 3.83544
r56 3 10 26.6446
r57 3 4 53.8017
.ends

